US05025031
Sulfamic 2-(3-methylphenoxy)ethyl ester
The title compound was prepared by procedures of Example 4 from sulfamoyl chloride and 2-(3-methylphenoxy)ethanol in 47% yield [recrystallizing ethyl ether-petroleum ether (30°-60° C.)]. A white solid, mp 76°-78° C., was obtained.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(3-methylphenoxy)ethanol | CC=1C=C(OCCO)C=CC1 | C9H12O2
product | Sulfamic 2-(3-methylphenoxy)ethyl ester | 47% yield | CC=1C=C(OCCOS(N)(=O)=O)C=CC1 | C9H13NO4S
